US08980887B2
N-ethyl-N-(4-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 4)
According to the method of Example 14, 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(4-pyridinylmethyl)ethylamine were used as raw materials for synthesis, yellow solid powder, yield 69.5%. m.p. 245-247° C., ESI-MS m/z: 420[M+H]+, 1H NMR(D2O, 400 MHz)δ: 0.95(t, 0.7H, J=7.00 Hz), 1.11(t, 2.3H, J=7.00 Hz), 2.38(s, 2.3H), 2.39(s, 0.7H), 3.27(q, 0.5H, J=7.00 Hz), 3.52(q, 1.5H, J=7.00 Hz), 4.06(s, 0.5H), 4.39(s, 1.5H), 4.66(s, 1.5H), 4.88(s, 0.5H), 7.16-7.28(m, 2H), 7.35-7.47(m, 4H), 7.50(s, 1H), 7.65-7.66(m, 1H), 8.14-8.26(m, 1H), 8.44-8.51(m, 2H).

reactant | 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-(4-pyridinylmethyl)ethylamine | N1=CC=C(C=C1)CNCC | C8H12N2
product | N-ethyl-N-(4-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 69.5% | Cl.C(C)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)Cl)=O)CC2=CC=NC=C2 | InChI=1S/C24H23ClN4O.ClH/c1-3-28(16-18-8-11-26-12-9-18)23(30)15-21-24(19-4-6-20(25)7-5-19)27-22-14-17(2)10-13-29(21)22;/h4-14H,3,15-16H2,1-2H3;1H
